US08703784B2
Part C: Preparation of f 5-(1-aminoethyl)-N,N-bis((2-(trimethylsilyl)ethoxy)methyl)pyrazolo[1,5-a]pyrimidin-7-amine
A solution of 1-[7-(bis{[2-(trimethylsilyl)ethoxy]methyl}amino)pyrazolo[1,5-a]pyrimidin-5-yl]ethanone oxime (4.50 g, 8.77 mmol) in 4:1 EtOH/AcOH (90 mL) under nitrogen in a Parr bottle was treated with 10% Pd on carbon (933 mg, 0.877 mmol), and the mixture was shaken on the Parr apparatus under 45 psi hydrogen for 23 h. The catalyst was removed by filtration through Celite, and the filtrate was concentrated under reduced pressure, azeotroping with toluene at 40-45° C. to remove most AcOH. The oily residue was taken up in EtOAc (˜100 mL), washed with saturated aqueous NaHCO3 (2×50 mL) and brine (20 mL), dried over Na2SO4, and concentrated under reduced pressure to give the title compound, 5-(1-aminoethyl)-N,N-bis((2-(trimethylsilyl)ethoxy)methyl)pyrazolo[1,5-a]pyrimidin-7-amine (4.02 g, 91% purity, 95% yield) as an oil: MS (ESI+) for C20H39N5O2Si2 m/z 438 (M+H)+.

reactant | 1-[7-(bis{[2-(trimethylsilyl)ethoxy]methyl}amino)pyrazolo[1,5-a]pyrimidin-5-yl]ethanone oxime | 8.77 mmol, 4.50 g | C[Si](CCOCN(C1=CC(=NC=2N1N=CC2)C(C)=NO)COCC[Si](C)(C)C)(C)C | C20H37N5O3Si2
reactant | hydrogen | [H][H] | H2
catalyst | Pd on carbon | 0.877 mmol, 933 mg | [Pd] | Pd
solvent | EtOH AcOH | 90 mL | CCO.CC(=O)O
product | 5-(1-aminoethyl)-N,N-bis((2-(trimethylsilyl)ethoxy)methyl)pyrazolo[1,5-a]pyrimidin-7-amine | 4.02 g, 95% yield | NC(C)C1=NC=2N(C(=C1)N(COCC[Si](C)(C)C)COCC[Si](C)(C)C)N=CC2 | C20H39N5O2Si2
